US07301022B2
(2S,5R)-tert-Butyl 2-((2-(6-(2-acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)carbamoyl)-5-phenylpyrrolidine-1-carboxylate.
(2S,5R)-1-(tert-Butoxycarbonyl)-5-phenylpyrrolidine-2-carboxylic acid (350 mg, 1.2 mmol, Neosystem-T) was reacted with N-(4-(6-(2-amino-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide (446 mg, 1.0 mmol, prepared as described in WO04014871) under the conditions of Example 45(a) to give the title compound as a white solid. MS (ESI, neg. ion.) m/z: 719 (M−1).

reactant | (2S,5R)-1-(tert-Butoxycarbonyl)-5-phenylpyrrolidine-2-carboxylic acid | 1.2 mmol, 350 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1C1=CC=CC=C1)C(=O)O | C16H21NO4
reactant | N-(4-(6-(2-amino-4-(trifluoromethyl)-phenyl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | 1.0 mmol, 446 mg | NC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C20H14F3N5O2S
product | (2S,5R)-tert-Butyl 2-((2-(6-(2-acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)carbamoyl)-5-phenylpyrrolidine-1-carboxylate | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)[C@H]2N([C@H](CC2)C2=CC=CC=C2)C(=O)OC(C)(C)C | C36H33F3N6O5S
